US07148229B2
Step 4: Preparation of 3-butyl-1-(2-fluorobenzyl)-8-(4-nitro-benzyl)-3,7-dihydro-purine-2,6-dione.
1-Butyl-3-(2-fluorobenzyl)-6-[2-(4-nitro-phenyl)-ethylamino]-1H-pyrimidine-2,4-dione (2.3 g, 5.2 mmol) was dissolved in ethanol (20 mL) and treated with isoamyl nitrite (Aldrich) (3.6 mL, 26 mmol). Concentrated aqueous hydrochloric acid (1 mL) was added to the reaction mixture. The reaction was stirred at 23° C. for 40 minutes. The ethanol was removed under reduced pressure and the residue washed with diethyl ether. The solid residue was then dissolved in n-butanol (15 mL), and the mixture refluxed for 30 minutes. After cooling to room temperature 1-butyl-3-(2-fluorobenzyl)-6-[2-(4-nitro-phenyl)-ethylamino]-1H-pyrimidine-2,4-dione separated as pale yellow crystals which were collected by filtration (1.91 g, 81%). LCMS, m/z(M+H)=452.24.

reactant | 1-Butyl-3-(2-fluorobenzyl)-6-[2-(4-nitro-phenyl)-ethylamino]-1H-pyrimidine-2,4-dione | 5.2 mmol, 2.3 g | C(CCC)N1C(N(C(C=C1NCCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=C(C=CC=C1)F)=O | C23H25FN4O4
reactant | isoamyl nitrite | 26 mmol, 3.6 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-butyl-1-(2-fluorobenzyl)-8-(4-nitro-benzyl)-3,7-dihydro-purine-2,6-dione | C(CCC)N1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=C(C=CC=C1)F)=O | C23H22FN5O4
